Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have been thinking about making everything
end."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ Dr. ___ ___ and ___ ED Initial
Psychiatry Consult note:

"Mr. ___ reports that he has been feeling increasingly 
frustrated
with a project for his computer science course at school. He has
become overwhelmed with fear that he will do poorly on the
project and in the class to the point that he had a panic attack
on the day of presentation, which he describes feeling as if he 
was short of
breath, tachycardic, and "as if my heart was blocked." During 
and
after his panic attack, he experienced continual thoughts of
suicide via either medication overdose or walking into traffic.
He contacted his psychologist, Dr. ___ recommended that
he present to the ED for further evaluation. He feels 
that,although he wants there to be hope for his future, he is
unsure whether this hope exists. He lists his reasons to not 
kill
himself as "30% friends and family and 70% afraid it would not
work." He additionally notes an episode of momentarily stopping
in a crosswalk recently (in hopes of being hit by a car) and an
episode last year of turning the wheel at the last moment to
avoid driving into some trees. He sees suicide as a relief of 
his
overwhelming stress and feels that it would solve his current
problems. He describes symptoms of generalized anxiety about 
most
things concordant with specific depressive symptoms of poor
appetite, increased feelings of guilt, difficulty waking up, low
energy, and low mood. He denies symptoms consistent with
psychosis or mania."

In the ED, patient remained under good behavioral control. He 
was
given his home medication regimen of Sertraline 100 mg aat night
and risperidone 1 mg at night.

On admission interview, the patient re-iterates his story as 
above.
He also relates a role for his worsening depression of the 
stress
he feels from being away from his family and his culture. He
reports that he initially began to develop depressive symptoms
spproximately ___ years ago after moving to ___ due to
tranferring schools. He states that he also feels significant
academic pressure that is more self imposed than from his 
family.
He notes that he would rather die than deal with his stress 
level
or not achieve success in his goals of early graduation, good
grades. This stress is so consuming for him that it leads him to
feelings of taking his life. During these times of increased
anxiety, patient also feels that his thoughts are racing however
these improve when he is more calm. He states that he feels much
better than at presentation, however when asked about his safety
on the unit, he shares that he hopes that a doctor gives him a
pill to help him die peacefully. He denies any suicidal plan at
this time. While he reports anger towards others, he reports 
that
he bottles this up, and denies any prior history of violence. He
denies any perceptual disturbances or auditory or visual
hallucinations. At this time patient endorses hypersomnia, poor
appetite, feelings of decreased ability to concentrate for which
he was reportedly started on adderall ___ months ago, with 
little
effect. He feels that sertraline has improved his depression as
he feels periods of happiness at times, and feels that he has
been less suicidal over the last month prior to this most recent
incident on ___.

 
Past Medical History:
**PCP: ___ medical clinic at ___
No other medical issues
Denies history of head trauma, seizure.
 
Social History:
___
Family History:
-Psychiatric Diagnoses: None
-Substance Use Disorders: None
-Suicide Attempts/Completed Suicides: none
 
Physical Exam:
Physical Exam on Admission:
1441T:98.3 BP:126 / 80 HR:90 RR:16spO2:98

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: DOWB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: intact to recent events, long-term grossly intact
-Fund of knowledge: Consistent with education
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: man appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
-Behavior: Sitting up in interview chair, eyes downcast with
occasional eye contact, figiting with his fingers throught the
interview. 
-Mood: "Im feeling better"
-Affect: Mood noncongruent, anxious and blunted affect, limited
range
-Speech: Normal rate, soft spoken.
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: Reports suicidal ideation, without active 
plan.
Denies auditory or visual hallucinations. Does not appear to be
attending to internal stimuli.
-Insight: Limited in regards to thought of suicide
-Judgment: Poor
Physical Exam at Discharge
Vitals: T:98.4 BP: 123 / 77 HR:100 RR:18 SpO2:98  

Mental Status Exam:
Appearance: Well-groomed, taking showers
facial expression: Brighter, friendly 
build: WNL
Behavior: engaging, cooperative, more insightful
Eye contact: Direct 
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "I feel more relaxed ", brighter, less anxious,
stable 
thought process/content: reality oriented, goal directed,  
denies
SI/HI, denies AH/VH/delusions
Intellectual Functioning: Fair concentration
Oriented: x4
Memory: Grossly intact 
insight: Fair
Judgment: Fair

Cognition:
-Wakefulness/alertness: Awake and alert
-Attention: Attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Intact to recent events
-Language: Speaking in ___, with proficiency, appropriate to
conversation 

 
Pertinent Results:
___ 07:55PM BLOOD WBC-8.0 RBC-5.00 Hgb-15.7 Hct-46.1 MCV-92 
MCH-31.4 MCHC-34.1 RDW-11.5 RDWSD-38.6 Plt ___
___ 07:55PM BLOOD Neuts-72.0* ___ Monos-5.2 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-5.79 AbsLymp-1.75 
AbsMono-0.42 AbsEos-0.02* AbsBaso-0.03
___ 07:55PM BLOOD Glucose-121* UreaN-11 Creat-0.8 Na-143 
K-4.0 Cl-100 HCO3-25 AnGap-18
___:30PM BLOOD ALT-28 AST-26 AlkPhos-91 TotBili-0.3
___ 05:30PM BLOOD Cholest-153
___ 05:30PM BLOOD %HbA1c-5.1 eAG-100
___ 05:30PM BLOOD Triglyc-145 HDL-67 CHOL/HD-2.3 LDLcalc-57
___ 05:30PM BLOOD TSH-2.0
___ 07:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:30PM URINE Color-Straw Appear-Clear Sp ___
___ 09:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission.  Mr. ___ was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout 
 
2. PSYCHIATRIC:
#) Mr. ___ presented has a past psychiatric history notable for 
major depressive disorder. He presented to the ___ at the 
suggestion of his outpatient therapist for worsening depression 
and anxiety with evolving suicidal ideation in the setting of 
academic stressors. Prior to presentation the patient has 
reached out to his outpatient therapist reporting worsening 
anxiety and suicidal thinking with plan to overdose on pills due 
to acute stress related to a computer science assignment. His 
history was particularly concerning for worsening anxiety, 
continued depressive symptoms including decreased appetite, 
sleep disturbances, poor concentration, low mood and low energy, 
as well as history of multiple aborted suicide attempts in the 
last year. Additionally, on admission interview was concerning 
for persistent suicidal thoughts and the hope that a doctor 
would "give [him] a pill to help me die peacefully." He 
initially was quite anxious on the unit and became increasingly 
agitated with his being here especially related to limitations 
and rules on the unit. During his admission he became more calm 
and was better able to discuss his concerns and stressors, he 
reported significant improvement in mood and attended groups as 
above. Patient also had psychological testing (Personality 
Assessment Inventory) while admitted. Testing was notable for 
subnormal clinical scales indication likely under reporting of 
symptoms, and noted suicidal ideation history, athough no active 
suicidal thinking. This testing was notable for patient rating 
himself more highly than others would rate him, a degree of 
social resentment, a slight peak in social deficits and a degree 
of egocentrism. This testing was not consistent with a prodromal 
process and his profile is more consistent with severe 
introversion with cultural struggles. Please see full report by 
Dr. ___. During this admission patient's risperidone dose was 
increased to include a 0.5 mg dose in the morning as well as his 
home 1 mg in the evening, he was also started on Ativan 0.25mg 
for anxiety and agitation as needed. He was continued on 
sertraline 100 mg daily. His Adderall was held due to concerns 
of increasing anxiety and agitation. He tolerated these 
medication changes well. During admission Mr. ___ became more 
engaged with group therapies, was more visible on the unit and 
reported significant improvement in his anxiety. At discharge he 
reported some anxiety related to returning to school. He denied 
any thoughts of self harm, suicidal ideation plan or intent. He 
noted several coping mechanisms and plan for periods of stress 
following discharge. Patient should continue to work on coping 
skills as an outpatient.  

3. SUBSTANCE USE DISORDERS:
#) Mr. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Mr. ___ has 
no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___  was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ was initially 
___ to his room, but later in his admission attended more 
groups. He generally kept to himself on the milieu but 
interacted appropriately with staff and peers. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal and written permission for the team to 
contact his outpatient psychiatrist, Dr. ___ 
outpatient therapist, Dr. ___.  Both were provided with a 
summary of Mr. ___ presentation to the ___ ED/Deac 4 and an 
update of her progress since admission on Deac 4, and they 
provided collateral information and treatment recommendations.

Mr. ___ gave verbal permission for the team to contact his 
Mother, ___, attempts were made to contact Ms. ___ by 
phone, however she was not available by telephone.
 
6. INFORMED CONSENT: 
Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD (rare), hyperprolactinemia, QTc prolongation, 
drowsiness, nausea, constipation, weight gain, orthostatic 
hypotension (rare)

Medication: Ativan (lorazepam)
---Benefits: Treatment of anxiety, to be used periodically
---Adverse effects: Sedation, depression, dizziness, slurred 
speech, falling down, forgetfulness, confusion, paradoxical 
hyperexcitability/nervousness, respiratory depression 

Mr. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. He 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself/others. Mr. ___ static risk 
factors noted at that time include chronic mental illness, male 
gender, single relationship status, liimited social supports, 
financial hardship. The modifiable risk factors identified were 
as such: suicidal ideation with intent/plan,impulsiveness, 
poorly controlled mental illness, social withdrawal, poor 
reality testing, hopelessness, severe anxiety/panic attacks, 
lack of purpose, decreased self-esteem, polarized thinking, 
acutely stressful events, limited coping skills. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Mr. ___ is being discharged with many protective factors, 
including help seeking behavior, good relationship with 
outpatient providers, close family support, sense of 
responsibility to family, absence of suicidal ideation at time 
of discharge, medication compliance, no chronic substance use, 
no access to lethal weapons.  Overall, based on the totality of 
our assessment at this time, Mr. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 

Our prognosis of this patient is Fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO QHS 
2. RisperiDONE 1 mg PO QHS 
3. Amphetamine-Dextroamphetamine 20 mg PO BID 

 
Discharge Medications:
1.  LORazepam 0.25 mg PO DAILY:PRN anxiety/agitation/insomnia 
RX *lorazepam 0.5 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*4 Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO QAM  
3.  Sertraline 100 mg PO DAILY  
4.  RisperiDONE 1 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___